US07816369B2
To a suspension of N-(4-chloro-3-hydroxymethyl-phenyl)-2-methyl-6-trifluoromethyl-nicotinamide (3.29 g; 9.56 mmol) in dichloromethane (300 ml) was added manganese dioxide (8.31 g; 95.6 mmol) and the resulting mixture stirred at room temperature for 30 minutes. Analysis after this time showed a 60% conversion to product. Further manganese dioxide (8 g; 92 mmol) was added in three portions over the next 90 minutes. The reaction mixture was then filtered through celite and the filtrate evaporated to give N-(4-chloro-3-formyl-phenyl)-2-methyl-6-trifluoromethyl-nicotinamide (3.2 g, 97%).

reactant | N-(4-chloro-3-hydroxymethyl-phenyl)-2-methyl-6-trifluoromethyl-nicotinamide | 9.56 mmol, 3.29 g | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)CO | C15H12ClF3N2O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 95.6 mmol, 8.31 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 92 mmol, 8 g | [O-2].[O-2].[Mn+4]
product | N-(4-chloro-3-formyl-phenyl)-2-methyl-6-trifluoromethyl-nicotinamide | 3.2 g, 97% | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C=O | C15H10ClF3N2O2
